US07569582B2
0.14 g of tert-butyl (2-{[(1R)-1-(4-chlorobenzyl)-2-(3-{cyclohexyl[(diethylamino)carbonyl]amino}-8-azabicyclo[3.2.1]oct-8-yl)-2-oxoethyl]amino}ethyl)-carbamate is placed in 1.1 ml of 2N hydrochloric acid in diethyl ether. The reaction medium is stirred at ambient temperature for 1 h. Trituration, rinsing with diethyl ether and filter-drying of the precipitate obtained are carried out. The salt thus obtained is chromatographed on silica gel, elution being carried out with a 98/2/0.2 and then 95/5/0.5 mixture of dichloromethane, methanol and aqueous ammonia. 0.05 g of N-{8-[N-(2-aminoethyl)-4-chloro-D-phenylalanyl]-8-azabicyclo[3.2.1]oct-3-yl}-N-cyclohexyl-N′,N′-diethylurea hydrochloride is obtained.

reactant | tert-butyl (2-{[(1R)-1-(4-chlorobenzyl)-2-(3-{cyclohexyl[(diethylamino)carbonyl]amino}-8-azabicyclo[3.2.1]oct-8-yl)-2-oxoethyl]amino}ethyl)-carbamate | 0.14 g | ClC1=CC=C(C[C@H](C(=O)N2C3CC(CC2CC3)N(C(=O)N(CC)CC)C3CCCCC3)NCCNC(OC(C)(C)C)=O)C=C1 | C34H54ClN5O4
solvent | hydrochloric acid | 2N, 1.1 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{8-[N-(2-aminoethyl)-4-chloro-D-phenylalanyl]-8-azabicyclo[3.2.1]oct-3-yl}-N-cyclohexyl-N′,N′-diethylurea hydrochloride | 0.05 g | Cl.NCCN[C@H](CC1=CC=C(C=C1)Cl)C(=O)N1C2CC(CC1CC2)N(C(=O)N(CC)CC)C2CCCCC2 | InChI=1S/C29H46ClN5O2.ClH/c1-3-33(4-2)29(37)35(23-8-6-5-7-9-23)26-19-24-14-15-25(20-26)34(24)28(36)27(32-17-16-31)18-21-10-12-22(30)13-11-21;/h10-13,23-27,32H,3-9,14-20,31H2,1-2H3;1H/t24?,25?,26?,27-;/m1./s1
